US06333324B1
10% Palladium on activated carbon (1.5 g) was suspended in H2O (10 ml) and the suspension was added to a solution of (2R,3R)-2-benzyloxymethyl-1-tert-butoxycarbonyl-4-methanesulfonyl-3-methyl-piperazine (2.1 g) and ammonium formate (3.3 g) in MeOH (25 ml). The mixture was refluxed for 1.5 hours. Ammonium formate (3.4 g) in H2O (10 ml) and MeOH (10 ml) were added to the reaction mixture, and the mixture was refluxed for 1.5 hours. 10% Palladium on activated carbon (1.5 g) in H2O (10 ml) and ammonium formate (3.4 g) were added to the reaction mixture and the mixture was refluxed for 2.5 hours. The catalyst was removed by filtration through a celite pad and the pad was washed with MeOH. The combined filtrate and washings were concentrated in vacuo. The residue was partitioned between AcOEt and brine. The organic layer was dried over MgSO4 and concentrated in vacuo to give 1.5 g of (2R,3R)-1-tert-butoxycarbonyl-2-hydroxymethyl-4-methane-sulfonyl-3-methylpiperazine as a solid.

reactant | (2R,3R)-2-benzyloxymethyl-1-tert-butoxycarbonyl-4-methanesulfonyl-3-methyl-piperazine | 2.1 g | C(C1=CC=CC=C1)OC[C@@H]1N(CCN([C@@H]1C)S(=O)(=O)C)C(=O)OC(C)(C)C | C19H30N2O5S
reactant | ammonium formate | 3.3 g | C(=O)[O-].[NH4+]
reactant | Ammonium formate | 3.4 g | C(=O)[O-].[NH4+]
reactant | ammonium formate | 3.4 g | C(=O)[O-].[NH4+]
catalyst | Palladium on activated carbon | 1.5 g | [Pd] | Pd
solvent | H2O | 10 ml | O | H2O
solvent | MeOH | 25 ml | CO | CH4O
solvent | H2O | 10 ml | O | H2O
solvent | MeOH | 10 ml | CO | CH4O
catalyst | Palladium on activated carbon | 1.5 g | [Pd] | Pd
solvent | H2O | 10 ml | O | H2O
product | (2R,3R)-1-tert-butoxycarbonyl-2-hydroxymethyl-4-methane-sulfonyl-3-methylpiperazine | 1.5 g | C(C)(C)(C)OC(=O)N1[C@H]([C@H](N(CC1)S(=O)(=O)C)C)CO | C12H24N2O5S
